US04032575
A mixture of 0.62 g of α-(3,4-dimethoxyphenethylaminomethyl)-4-benzyloxybenzylalcohol hydrochloride, 0.2 g of 10% palladium-carbon and 200 ml of isopropanol is shaken at room temperature in hydrogen gas under atmospheric pressure. After hydrogen uptake is completed, the mixture is filtered to remove the catalyst. Then, the filtrate is concentrated to dryness, and the residue obtained is recrystallized from a mixture of isopropanol and isopropylether. 0.42 g of α-(3,4-dimethoxyphenethylaminomethyl)-4-hydroxybenzylalcohol hydrochloride is thereby obtained. M.p. 164° - 167° C.

reactant | α-(3,4-dimethoxyphenethylaminomethyl)-4-benzyloxybenzylalcohol hydrochloride | 0.62 g | Cl.COC=1C=C(CCNCC(C2=CC=C(C=C2)OCC2=CC=CC=C2)O)C=CC1OC
reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | α-(3,4-dimethoxyphenethylaminomethyl)-4-hydroxybenzylalcohol hydrochloride | 0.42 g | Cl.COC=1C=C(CCNCC(C2=CC=C(C=C2)O)O)C=CC1OC | InChI=1S/C18H23NO4.ClH/c1-22-17-8-3-13(11-18(17)23-2)9-10-19-12-16(21)14-4-6-15(20)7-5-14;/h3-8,11,16,19-21H,9-10,12H2,1-2H3;1H
